US07576203B2
Synthesis of N-[2,4-dichloro-6-methylpyridin-3-yl]-2-acetyloxyacetamide
N,N-Dimethylaniline (142.4 g, 1,175 mmol) was added to a solution of 3-amino-2,4-dichloro-6-methylpyridine (130.0 g, 734 mmol) in chloroform (910 mL). Under cooling with water, a solution of acetyloxyacetyl chloride (150.4 g, 1,102 mmol) in chloroform (390 mL) was added dropwise thereto over 30 minutes while the temperature of the reaction mixture was maintained at 19 to 27° C., followed by stirring at room temperature overnight (18 hours). After HPLC was performed to confirm that starting materials had been completely consumed, water (650 mL) was added to the reaction mixture. The formed organic layer was collected, and the aqueous layer was extracted with chloroform (650 mL). The obtained organic layers were combined, followed by washing sequentially with water and saturated brine. The thus-washed organic layer was dried over sodium sulfate anhydrate, and the solvent was removed under reduced pressure. Subsequently, isopropyl alcohol (195 mL) and diisopropyl ether (390 mL) were added to the residue, and the resultant mixture was heated for dissolution. Diisopropyl ether (650 mL) was added dropwise thereto at an internal temperature of 62 to 66° C. The reaction mixture was cooled, followed by stirring for 3.5 hours under cooling with ice. The crystals that precipitated were collected through filtration, followed by washing with a cooled mixture of isopropyl alcohol (19.5 mL) and diisopropyl ether (104 mL). The obtained mixture was dried at room temperature under reduced pressure, to thereby yield N-[2,4-dichloro-6-methylpyrrolidin-3-yl]-2-acetyloxyacetamide as colorless crystals (171.7 g, 619.6 mmol, yield: 84.4%, HPLC: 99.20%).

reactant | N,N-Dimethylaniline | 1,175 mmol, 142.4 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 3-amino-2,4-dichloro-6-methylpyridine | 734 mmol, 130.0 g | NC=1C(=NC(=CC1Cl)C)Cl | C6H6Cl2N2
reactant | water | O | H2O
reactant | acetyloxyacetyl chloride | 1,102 mmol, 150.4 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | chloroform | 910 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 390 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[2,4-dichloro-6-methylpyridin-3-yl]-2-acetyloxyacetamide | yield: 84.4% | ClC1=NC(=CC(=C1NC(COC(C)=O)=O)Cl)C | C10H10Cl2N2O3
